US06875765B2
3-Benzyloxy-4-(1-tert-butoxycarbonylmethyl-2,2-diethoxy-ethylsulfamoyl)-benzoic acid methyl ester (6.82 g, 12.4 mmol) was combined and stirred with 1M lithium hydroxide (26 mL, 26 mmol) in tetrohydrofuran (250 mL) at room temperature overnight. The reaction mixture was diluted with ethyl acetate and acidified with 1M HCl (26 mL). The organic layer was collected and extracted with water, brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give 3-benzyloxy-4-(1-tert-butoxycarbonylmethyl-2,2-diethyoxy-ethylsulfamoyl-)benzoic acid (4.32 g, 8.0 mmol, 65%). MS (APCI) m/z 536.3 (M−1).

reactant | 3-Benzyloxy-4-(1-tert-butoxycarbonylmethyl-2,2-diethoxy-ethylsulfamoyl)-benzoic acid methyl ester | 12.4 mmol, 6.82 g | COC(C1=CC(=C(C=C1)S(NC(C(OCC)OCC)CC(=O)OC(C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C27H37NO9S
reactant | lithium hydroxide | 26 mmol, 1M, 26 mL | [OH-].[Li+]
reactant | HCl | 1M, 26 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzyloxy-4-(1-tert-butoxycarbonylmethyl-2,2-diethyoxy-ethylsulfamoyl-)benzoic acid | 8.0 mmol, 4.32 g, 65% | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1S(NC(C(OCC)OCC)CC(=O)OC(C)(C)C)(=O)=O | C26H35NO9S
